US06964979B2
5-Bromo-2-fluorophenylhydrazine
A solution of sodium nitrate (0.49 g, 0.007 mM) in water (1.5 ml) was added drop wise to a vigorously stirred heterogeneous solution of 5-bromo-2fluoroaniline (1.4 g) in concentrated HC(aq)(3.5 ml) over a 30 minutes period at 0° C. Tin (II) chloride dihydrate (4.5 g, 0.02 mM) in concentrated HCl(aq) (3.5 ml) was added drop wise to the above solution over a period of 30 minutes. After the addition, the solution was allowed to stir at 0° C. for one hour. The reaction solution was basified (pH>7) by slowly adding a solution of 50% aqueous NaOH to the reaction mixture. The water layer was washed with diethyl ether (3×). The organic layers were combined, dried (MgSO4), and concentrated. The resultant solid was thoroughly washed with hexanes. The undissolved solid was captured on filter and further washed with hexanes to afford 0.81 g (54% yield) of the desired product as an off-white solid. NMR (CHCl3) δ 5.45 (bs, 1H); 6.80-6.86(m, 2H); 7.25-7.28 (m, 1H).

reactant | sodium nitrate | 0.007 mM, 0.49 g | [N+](=O)([O-])[O-].[Na+]
reactant | 5-bromo-2fluoroaniline | 1.4 g | BrC=1C=CC(=C(N)C1)F | C6H5BrFN
reactant | Tin (II) chloride dihydrate | 0.02 mM, 4.5 g | O.O.[Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | water | 1.5 ml | O | H2O
solvent | HCl | 3.5 ml | Cl | ClH
product | 5-Bromo-2-fluorophenylhydrazine | 0.81 g, 54% yield | BrC=1C=CC(=C(C1)NN)F | C6H6BrFN2
